US05677306
The procedure is carried out as in Example 1 but starting with 1.8 g of 1-(5-methyl-1-oxo-2-indanyl)imidazole-2-carboxamide, a total of 80 ml of methanol and 22 ml of 12N aqueous hydrochloric acid solution. 1.5 g of 8-methyl-5H, 10H-imidazo [1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride are thus obtained which decompose without melting above 300° C. [NMR spectrum: (200 MHz; DMSO-d6 ; δ in ppm): 2.42 (s, 3H: Ar--CH3); 4.05 (s, 2H: --CH2-- in position 10); 7.27 (broad d, J=8 Hz 1H: --H7); 7.48 (broad s, 1H: --H9); 7.83 (d, J=8 Hz, 1H: --H6); 7.97 and 8.25 (2d, J=1.5 Hz, 1H each: --H of imidazole); 13.20 (unresolved complex, 1H: --CONH--)].

reactant | 1-(5-methyl-1-oxo-2-indanyl)imidazole-2-carboxamide | 1.8 g | CC=1C=C2CC(C(C2=CC1)=O)N1C(=NC=C1)C(=O)N | C14H13N3O2
reactant | hydrochloric acid | 12N, 22 ml | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 8-methyl-5H, 10H-imidazo [1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 1.5 g | Cl.CC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1 | InChI=1S/C14H11N3O.ClH/c1-8-2-3-10-9(6-8)7-11-12(10)16-14(18)13-15-4-5-17(11)13;/h2-6H,7H2,1H3,(H,16,18);1H
